US08026234B2
2-Chloro-9-cyclopentyl-7-fluoro-7-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one:
To a suspension of ethyl 3-((2-chloro-5-nitropyrimidin-4-yl)(cyclopentyl)amino)-2-fluoro-2-methylpropanoate (3.4 g, 9 mmol), reduced iron (1.2 g, 23 mmol) in acetic acid (20 ml) was added dropwise concentrated hydrochloric acid (2 ml) at 0° C. The reaction mixture was stirred at 60° C. for 18 h. It was then concentrated in vacuo, diluted to EtOAc, basified with 10% NaOH solution at 0° C. The whole was filtered through celite, washed with EtOAc. The filtrate was then separated. The organic layer was dried over Na2SO4. The solution was concentrated in vacuo followed by precipitation from ether to afford the product (620 mg, 23% yield) as white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.42-1.67 (m, 7H) 1.72 (d, J=4.0 Hz, 2H) 1.77-1.91 (m, 2H) 3.58-3.77 (m, 2H) 5.01 (t, J=8.2 Hz, 1H) 7.97 (s, 1H) 10.36 (s, 1H). [M+H] calc'd for C13H16ClFN4O, 299. found 299.

reactant | ethyl 3-((2-chloro-5-nitropyrimidin-4-yl)(cyclopentyl)amino)-2-fluoro-2-methylpropanoate | 9 mmol, 3.4 g | ClC1=NC=C(C(=N1)N(CC(C(=O)OCC)(C)F)C1CCCC1)[N+](=O)[O-] | C15H20ClFN4O4
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-Chloro-9-cyclopentyl-7-fluoro-7-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 620 mg, 23% yield | ClC=1N=CC2=C(N(CC(C(N2)=O)(C)F)C2CCCC2)N1 | C13H16ClFN4O
